US07897609B2
A suspension of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.2 g, 3.0 mmol), (3-pyrrolidinylcarbonylphenyl)boronic acid (0.800 g, 3.65 mmol), potassium carbonate (1.4 g, 10.0 mmol), dichlorobis(triphenylphosphine)palladium(II)(0.021 g, 0.030 mmol), DME (13 mL), and water (7 mL) was stirred under a nitrogen atmosphere in a pressure vessel. The vessel was then sealed and heated at 110° C. for 16.5 hours and allowed to cool to room temperature. The volatiles were removed under reduced pressure. The residue was diluted with methanol, and silica gel was added. The mixture was concentrated under reduced pressure. The residue was purified by automated flash chromatography (FLASH 40+M silica cartridge, eluting with 10% to 25% methanol in ethyl acetate). The resulting material was concentrated twice from acetonitrile and then triturated with acetonitrile (100 mL) to provide a solid. The solid was isolated by filtration, washed with acetonitrile, and dried in a vacuum oven at 65° C. to provide 403 mg of 1-{4-amino-2-(ethoxymethyl)-7-[3-(pyrrolidin-1-ylcarbonyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol as a white solid, mp 185-187° C.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 3.0 mmol, 1.2 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | (3-pyrrolidinylcarbonylphenyl)boronic acid | 3.65 mmol, 0.800 g | N1(CCCC1)C(=O)C=1C=C(C=CC1)B(O)O | C11H14BNO3
reactant | potassium carbonate | 10.0 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 13 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.030 mmol, 0.021 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
product | 1-{4-amino-2-(ethoxymethyl)-7-[3-(pyrrolidin-1-ylcarbonyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol | 403 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C2=CC(=CC=C2)C(=O)N2CCCC2 | C27H32N6O3
